US05036062
Solution A: 0.3 mole/l calcium diethanesulfonate.
Calcium carbonate (1.38 g, 15 mmole) is dissolved by adding a 1.0 mole/l ethanesulfonic acid solution until a stable pH=5.3 is obtained. The solution is diluted with water to 50 ml.

reactant | Calcium carbonate | 15 mmole, 1.38 g | C([O-])([O-])=O.[Ca+2]
reactant | ethanesulfonic acid | 1.0 mole/l | C(C)S(=O)(=O)O | C2H6O3S
solvent | water | O | H2O
product | calcium diethanesulfonate | C(C)S(=O)(=O)[O-].C(C)S(=O)(=O)[O-].[Ca+2] | InChI=1S/2C2H6O3S.Ca/c2*1-2-6(3,4)5;/h2*2H2,1H3,(H,3,4,5);/q;;+2/p-2
